US06432656B1
Preparation of N-(2-Hydroxy-3-decanoxypropyl)-1,1-dimethyl-2-(4-methoxyphenyl)ethylamine, Compound 67
Using the method of Example 5, supra, 1-decyl glycidyl ether (235 mg, 1.0 mmol) and 1,1-dimethyl-2-(4-methoxyphenyl)ethylamine (197 mg, 1.1 mmol) were used to prepare 175 mg of the title compound as a clear, colorless oil: GC/EI-MS, m/z (rel. int.) 394 (M+1, 1), 378 (6), 273 (97), 272 (100), 222 (9), 163 (37), 121 (61); 1H-NMR (CDCl3) δ7.49 (2H, d, J=8.5), 6.82 (2H, d, J=8.5 Hz), 3.78 (3H, s), 3.75 (1H, m), 3.45 (4H, m), 2.80 (1H, dd, J=11.7 and 4.0), 2.77 (1H, broad s), 2.64 (4H, m), 1.56 (2H, m), 1.26 (16H, m), 1.06 (3H, s), 1.05 (3H, s), 0.88 (3H, t, J=6.1); 13C-NMR (CDCl3) δ158.1, 131.3, 130.0, 113.4, 73.5, 71.7, 69.1, 55.1, 53.3, 46.4, 44.6, 31.8, 29.6, 29.5, 29.4, 29.3, 26.7, 26.6, 26.1, 22.6, 14.1; FT-IR (film) cm−1 3115 (broad s), 1612, 1512, 1245, 1121, 824.

reactant | 1-decyl glycidyl ether | 1.0 mmol, 235 mg | C(C1CO1)OCCCCCCCCCC | C13H26O2
reactant | 1,1-dimethyl-2-(4-methoxyphenyl)ethylamine | 1.1 mmol, 197 mg | CC(CC1=CC=C(C=C1)OC)(C)N | C11H17NO
product | N-(2-Hydroxy-3-decanoxypropyl)-1,1-dimethyl-2-(4-methoxyphenyl)ethylamine | 175 mg | OC(CNC(CC1=CC=C(C=C1)OC)(C)C)COCCCCCCCCCC | C24H43NO3
